US05194440
1. 2-Tert-butyloxycarbonyl-4,4-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide
To a stirred solution of 3,3-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide (2.5 g, 16.6 mmol) in anhydrous dimethylformamide (50 ml) was added sodium hydride (60% dispersion in oil; 666 mg) in two portions. After being stirred at 40° C. for 50 minutes under nitrogen, the mixture was allowed to cool to room temperature, diluted with anhydrous dimethylformamide (20 ml) and treated with di-tert-butyldicarbonate (3.99 g, 18.26 mmol). After 1 hour 45 minutes of stirring at room temperature, the mixture was diluted with water (200 ml) and extracted with diethyl ether (3×100 ml). The organic phases were washed with brine (2×50 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, dichloromethane to dichloromethane-diethyl ether 50:50) gave a mixture of the required product and 2,5-di-tert-butyloxycarbonyl-3,3-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide. Trituration of this mixture with hot hexane afforded 1.26 g (30%) of the required title compound as a white solid; δH (250 MHz, CDCl3) 4.39 (1H, br s, --NH--), 3.70 (2H, s, --CH2 --), 1.54 (9H, s, t-Bu), 1.47 (6H, s, --CMe2); m/z (CI) 249 (M+ -1).

reactant | 3,3-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide | 16.6 mmol, 2.5 g | CC1(NS(NC1)(=O)=O)C | C4H10N2O2S
reactant | sodium hydride | 666 mg | [H-].[Na+]
reactant | di-tert-butyldicarbonate | 18.26 mmol, 3.99 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-di-tert-butyloxycarbonyl-3,3-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide | C(C)(C)(C)OC(=O)N1S(N(CC1(C)C)C(=O)OC(C)(C)C)(=O)=O | C14H26N2O6S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-Tert-butyloxycarbonyl-4,4-dimethyl-1,2,5-thiadiazolidine-1,1-dioxide | C(C)(C)(C)OC(=O)N1S(NC(C1)(C)C)(=O)=O | C9H18N2O4S
